US07314849B2
A solution of 1-bromo-4-chloro-2-fluorobenzene (20.4 g, 0.100 mol) in THF (50 mL) was slowly added to LDA (0.125 mol) in THF (600 mL) at −50° C. After addition the solution was warmed to −20° C. and then cooled to −50° C. a solution of bromomethoxymethane (25 g, 0.200 mol) in THF (25 mL) was slowly added and the reaction mixture was warmed to ambient temperature. The reaction was quenched with water (400 mL) and extracted with diethyl ether (2×150 mL). The combined organic phases were dried (sodium sulfate) and concentrated. The residual oil was distilled (70°-75° C./0.5 mm) to give 1-bromo-4-chloro-2-fluoro-3-methoxymethylbenzene (18.0 g, 0.071 mol): 1H NMR (CDCl3): δ 7.50 (m, 1H), 7.15 (dd, 1H), 4.65 (s, 1H), 3.40 (s, 1H).

reactant | 1-bromo-4-chloro-2-fluorobenzene | 0.100 mol, 20.4 g | BrC1=C(C=C(C=C1)Cl)F | C6H3BrClF
reactant | LDA | 0.125 mol | [Li+].CC(C)[N-]C(C)C
reactant | bromomethoxymethane | 0.200 mol, 25 g | BrCOC | C2H5BrO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-bromo-4-chloro-2-fluoro-3-methoxymethylbenzene | 0.071 mol, 18.0 g | BrC1=C(C(=C(C=C1)Cl)COC)F | C8H7BrClFO
